US07544835B2
3-[3-(2-{[(2,4-Dichloroanilino)carbonyl]oxy}ethyl)phenyl]-2-ethoxypropanoic acid
Using ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate and 2,4-dichlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 160b).

reactant | ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate | C(C)OC(C(=O)OCC)CC1=CC(=CC=C1)CCO | C15H22O4
reactant | 2,4-dichlorophenylisocyanate | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
product | 3-[3-(2-{[(2,4-Dichloroanilino)carbonyl]oxy}ethyl)phenyl]-2-ethoxypropanoic acid | ClC1=C(NC(=O)OCCC=2C=C(C=CC2)CC(C(=O)O)OCC)C=CC(=C1)Cl | C20H21Cl2NO5
